US08012976B2
(E)-2-fluoro-N,N-dimethyl-5-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide
A solution of 2-fluoro-5-formyl-N,N-dimethylbenzamide (2.38 g, 12.2 mmol), 4-aminoisobenzofuran-1(3H)-one (1.82 g, 12.2 mmol), anhydrous magnesium sulfate (14.67 g, 122 mmol) in acetonitrile (100 ml) was heated to reflux for 2 days. The solution was filtered and removed in vacuum. The crude product was re-crystal with isopropanol to give the title compound (1.5 g, yield: 37%) 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.91-2.92 (d, J=0.4 Hz, 3H), 3.07 (s, 3H), 5.55 (s, 2H), 7.52-7.56 (t, J=8.8 Hz, 1H), 7.67-7.70 (m, 2H), 7.76-7.78 (m, 1H), 8.02-8.04 (m, 1H), 8.10-8.14 (m, 1H), 8.83 (s, 1H); LC-MS (ESI) m/z: 327 (M+1)+.

reactant | 2-fluoro-5-formyl-N,N-dimethylbenzamide | 12.2 mmol, 2.38 g | FC1=C(C(=O)N(C)C)C=C(C=C1)C=O | C10H10FNO2
reactant | 4-aminoisobenzofuran-1(3H)-one | 12.2 mmol, 1.82 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | magnesium sulfate | 122 mmol, 14.67 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (E)-2-fluoro-N,N-dimethyl-5-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide | 1.5 g, yield: 37% | FC1=C(C(=O)N(C)C)C=C(C=C1)/C=N/C1=C2COC(C2=CC=C1)=O | C18H15FN2O3
